US03960868
10 g of powdered 3-acetyl-4-hydroxy-7-cyclohexylquinoline are added to a solution of 10 ml of dioxane and 10 g of a freshly prepared hypochlorite solution at room temperature. After 45 minutes, the unconverted acetyl compound is washed out with chloroform. The aqueous solution is acidified with 10% strength hydrochloric acid. The product which precipitates is washed with water and then dried. 7-Cyclohexyl-4-hydroxy-quinoline-3-carboxylic acid of melting point 241°-43°C is obtained.

reactant | 3-acetyl-4-hydroxy-7-cyclohexylquinoline | 10 g | C(C)(=O)C=1C=NC2=CC(=CC=C2C1O)C1CCCCC1 | C17H19NO2
reactant | hypochlorite | Cl[O-]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 7-Cyclohexyl-4-hydroxy-quinoline-3-carboxylic acid | C1(CCCCC1)C1=CC=C2C(=C(C=NC2=C1)C(=O)O)O | C16H17NO3
